US06147078
STEP C: 3-CHLORO-1-ETHOXYCARBONYLMETHYL-6-PHENYLTHIOMETHYL-PYRAZINONE
THIOPHENOL (1.28 ML, 12.5 MMOL) WAS ADDED DROPWISE TO A STIRRED SOLUTION OF TRIETHYLAMINE (3.0 ML, 21.5 MMOL) AND 6-BROMOMETHYL-3-CHLORO-1-ETHOXYCARBONYLMETHYLPYRAZINONE (3.86 G, 12.5 MMOL) IN METHYLENE CHLORIDE (20 ML). AFTER 15 MIN THE MIXTURE WAS PARTITIONED BETWEEN METHYLENE CHLORIDE AND WATER. THE ORGANIC LAYER WAS DRIED (NA2SO4) AND EVAPORATED IN VACUO TO GIVE THE TITLE COMPOUND AS A CRYSTALLINE SOLID WHICH WAS CARRIED FORWARD TO THE NEXT STEP:

reactant | THIOPHENOL | C1(=CC=CC=C1)S | C6H6S
reactant | TRIETHYLAMINE | C(C)N(CC)CC | C6H15N
reactant | 6-BROMOMETHYL-3-CHLORO-1-ETHOXYCARBONYLMETHYLPYRAZINONE | BrCC1=CN=C(C(N1CC(=O)OCC)=O)Cl | C9H10BrClN2O3
solvent | METHYLENE CHLORIDE | C(Cl)Cl | CH2Cl2
product | 3-CHLORO-1-ETHOXYCARBONYLMETHYL-6-PHENYLTHIOMETHYL-PYRAZINONE | ClC=1C(N(C(=CN1)CSC1=CC=CC=C1)CC(=O)OCC)=O | C15H15ClN2O3S
